US06936606B2
2-(1-Methyl-piperid-4-yl)-ethanoic acid ethyl ester is prepared from 1-methyl-piperid4-one (1 equiv), triethyl phosphono acetate (1 equiv) and NaH (1.1 equiv) in benzene followed by reduction of the alkene bond according to the procedure of Cignarella etc. (J Heterocyclic Chem 1993, 30 (5), 1337-1340).

reactant | 1-methyl-piperid4-one | 1 equiv | CN1CCC(CC1)=O | C6H11NO
reactant | triethyl phosphono acetate | 1 equiv | CCOC(=O)CP(=O)(OCC)OCC | C8H17O5P
reactant | NaH | 1.1 equiv | [H-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(1-Methyl-piperid-4-yl)-ethanoic acid ethyl ester | C(C)OC(CC1CCN(CC1)C)=O | C10H19NO2
